* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : DFFX1                                        *
* Netlisted  : Thu Dec  2 06:56:13 2021                     *
* PVS Version: 16.15-s010 Fri Jun 28 22:24:07 PDT 2019      *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(nmos3) _nmos1v _soi_nd(D) poly_conn(G) _soi_nsb(S) _soi_nsb(B)
*.DEVTMPLT 1 MP(pmos3) _pmos1v _soi_pd(D) poly_conn(G) _soi_psb(S) _soi_psb(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M1_PO_CDNS_1                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M1_PO_CDNS_1 1
** N=1 EP=1 FDC=0
.ends M1_PO_CDNS_1

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: M2_M1_CDNS_2                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt M2_M1_CDNS_2 1
** N=1 EP=1 FDC=0
.ends M2_M1_CDNS_2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos3_CDNS_3                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos3_CDNS_3 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 4 4 nmos3 L=1e-06 W=2e-06 AD=5e-12 AS=0 PD=9e-06 PS=0 fw=2e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=0
.ends nmos3_CDNS_3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos3_CDNS_4                                    *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos3_CDNS_4 1 2 3 4
** N=5 EP=4 FDC=1
M0 2 3 4 4 pmos3 L=1e-06 W=4e-06 AD=1e-11 AS=0 PD=1.3e-05 PS=0 fw=4e-06 sa=2e-06 sb=2e-06 $X=7000 $Y=2000 $dt=1
.ends pmos3_CDNS_4

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: DFFX1                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt DFFX1 15 4 16 1 11 17
** N=20 EP=6 FDC=28
X0 1 M1_PO_CDNS_1 $T=4000 36000 0 0 $X=2000 $Y=34000
X1 2 M1_PO_CDNS_1 $T=25000 36000 0 0 $X=23000 $Y=34000
X2 3 M1_PO_CDNS_1 $T=32000 64000 0 0 $X=30000 $Y=62000
X3 4 M1_PO_CDNS_1 $T=44000 36000 0 0 $X=42000 $Y=34000
X4 5 M1_PO_CDNS_1 $T=64000 36000 0 0 $X=62000 $Y=34000
X5 6 M1_PO_CDNS_1 $T=89000 36000 0 0 $X=87000 $Y=34000
X6 7 M1_PO_CDNS_1 $T=136000 36000 0 0 $X=134000 $Y=34000
X7 8 M1_PO_CDNS_1 $T=153000 36000 0 0 $X=151000 $Y=34000
X8 9 M1_PO_CDNS_1 $T=212000 36000 0 0 $X=210000 $Y=34000
X9 5 M2_M1_CDNS_2 $T=71600 28000 0 0 $X=69600 $Y=26000
X10 5 M2_M1_CDNS_2 $T=88000 28000 0 0 $X=86000 $Y=26000
X11 6 M2_M1_CDNS_2 $T=104000 36000 0 0 $X=102000 $Y=34000
X12 6 M2_M1_CDNS_2 $T=120000 36000 0 0 $X=118000 $Y=34000
X13 7 M2_M1_CDNS_2 $T=134000 28000 0 0 $X=132000 $Y=26000
X14 7 M2_M1_CDNS_2 $T=152000 28000 0 0 $X=150000 $Y=26000
X15 10 2 1 11 nmos3_CDNS_3 $T=20000 10800 1 180 $X=4000 $Y=10800
X16 10 3 2 11 nmos3_CDNS_3 $T=36000 10800 1 180 $X=20000 $Y=10800
X17 10 12 4 11 nmos3_CDNS_3 $T=52000 10800 1 180 $X=36000 $Y=10800
X18 10 5 2 12 nmos3_CDNS_3 $T=68000 10800 1 180 $X=52000 $Y=10800
X19 10 6 5 11 nmos3_CDNS_3 $T=84000 10800 1 180 $X=68000 $Y=10800
X20 10 13 6 11 nmos3_CDNS_3 $T=100000 10800 1 180 $X=84000 $Y=10800
X21 10 5 3 13 nmos3_CDNS_3 $T=116000 10800 1 180 $X=100000 $Y=10800
X22 10 7 3 6 nmos3_CDNS_3 $T=132000 10800 1 180 $X=116000 $Y=10800
X23 10 8 7 11 nmos3_CDNS_3 $T=148000 10800 1 180 $X=132000 $Y=10800
X24 10 14 8 11 nmos3_CDNS_3 $T=164000 10800 1 180 $X=148000 $Y=10800
X25 10 7 2 14 nmos3_CDNS_3 $T=180000 10800 1 180 $X=164000 $Y=10800
X26 10 15 8 11 nmos3_CDNS_3 $T=196000 10800 1 180 $X=180000 $Y=10800
X27 10 9 8 11 nmos3_CDNS_3 $T=212000 10800 1 180 $X=196000 $Y=10800
X28 10 16 9 11 nmos3_CDNS_3 $T=228000 10800 1 180 $X=212000 $Y=10800
X29 10 2 1 17 pmos3_CDNS_4 $T=20000 59600 0 180 $X=4000 $Y=45600
X30 10 3 2 17 pmos3_CDNS_4 $T=36000 59600 0 180 $X=20000 $Y=45600
X31 10 18 4 17 pmos3_CDNS_4 $T=52000 59600 0 180 $X=36000 $Y=45600
X32 10 5 3 18 pmos3_CDNS_4 $T=68000 59600 0 180 $X=52000 $Y=45600
X33 10 6 5 17 pmos3_CDNS_4 $T=84000 59600 0 180 $X=68000 $Y=45600
X34 10 19 6 17 pmos3_CDNS_4 $T=100000 59600 0 180 $X=84000 $Y=45600
X35 10 5 2 19 pmos3_CDNS_4 $T=116000 59600 0 180 $X=100000 $Y=45600
X36 10 7 2 6 pmos3_CDNS_4 $T=132000 59600 0 180 $X=116000 $Y=45600
X37 10 8 7 17 pmos3_CDNS_4 $T=148000 59600 0 180 $X=132000 $Y=45600
X38 10 20 8 17 pmos3_CDNS_4 $T=164000 59600 0 180 $X=148000 $Y=45600
X39 10 7 3 20 pmos3_CDNS_4 $T=180000 59600 0 180 $X=164000 $Y=45600
X40 10 15 8 17 pmos3_CDNS_4 $T=196000 59600 0 180 $X=180000 $Y=45600
X41 10 9 8 17 pmos3_CDNS_4 $T=212000 59600 0 180 $X=196000 $Y=45600
X42 10 16 9 17 pmos3_CDNS_4 $T=228000 59600 0 180 $X=212000 $Y=45600
.ends DFFX1
